US04178371
(1) Me2CHCH2CONHCH2CH2NH2
Isovaleroyl chloride (5 g, 38 mmole) in dichloromethane was added dropwise to a stirred solution of N,N-dimethylethylene diamine (3,38 g, 38 mmole) and NMM (7.75 g, 76.7 mmoles) in CH2Cl2 at 0° C. The reaction mixture was stirred at room temperature for four hours when the solvent was evaporated. The residue was taken up in 5 M NaOH (50 ml) and extracted with ethyl acetate (2×100 ml). The ethyl acetate was washed with a saturated aqueous solution of sodium chloride, dried (Na2SO4) and evaporated. The residue was dissolved in diethyl ether and 5 M HCl in ethyl acetate (10 ml) added. The resulting solid was filtered, washed with diethyl ether (5+10 ml) and dried under high vacuum.

reactant | Isovaleroyl chloride | 38 mmole, 5 g | C(CC(C)C)(=O)Cl | C5H9ClO
reactant | N,N-dimethylethylene diamine | 38 mmole, 3,38 g | CN(CCN)C | C4H12N2
reactant | NMM | 76.7 mmoles, 7.75 g | CN1CCOCC1 | C5H11NO
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | Me2CHCH2CONHCH2CH2NH2 | C(C)(C)CC(=O)NCCN | C7H16N2O
